US05491164
Step C: [2(R)-(t-butoxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-proline
[2(R)-(t-butyloxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-proline methyl ester (0.325 g, 0.58 mmol) was dissolved in MeOH (12 mL) and 1N NaOH solution (2.3 mL, 2.3 mmol) with stirring at ambient temperature. After 24 hrs, the reaction mixture was concentrated to remove MeOH, then dissolved in H2O, neutralized with 1N HCl (2.3 mL, 2.3 mmol), and extracted with EtOAc (3×10 mL). The organics were combined, washed with brine and dried (Na2SO4). Filtration and concentration to dryness provided the title compound. 1H NMR (CD3OD) δ 7.2-7.5 (m, 15H), 3.7-3.85 (m, 1H), 3.5-3.7 (m, 2H), 2.9-3.15 (m, 3H), 2.2-2.6 (m, 3H), 1.8-2.2 (m, 3H), 1.48 (s, 9H).

reactant | [2(R)-(t-butyloxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-proline methyl ester | 0.58 mmol, 0.325 g | COC([C@H]1N(CCC1)C[C@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C33H40N2O4S
reactant | NaOH | 2.3 mmol, 1N, 2.3 mL | [OH-].[Na+]
reactant | HCl | 2.3 mmol, 1N, 2.3 mL | Cl | ClH
solvent | MeOH | 12 mL | CO | CH4O
product | [2(R)-(t-butoxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-proline | C(C)(C)(C)OC(=O)N[C@H](CN1[C@H](C(=O)O)CCC1)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H38N2O4S
